US04276304
A mixture of 0.8 g of 1-(3,4-methylenedioxyphenyl)-2-methyl-2-nitropropane, 100 mg of platinum dioxide, one ml of acetic acid and 20 ml of 1,2-dimethoxyethane is shaken at 60°-70° C. for 18 hours in hydrogen gas atmosphere under elevated pressure (initial pressure: 80 atmospheric pressures). After the reaction, the insoluble materials are removed by filtration, and the filtrate is evaporated to remove solvent. The residue is dissolved in ethyl acetate, and the solution is extracted with 5% hydrochloric acid. The extract is alkalized with potassium carbonate, and then extracted with ethyl acetate. The extract is washed with a saturated sodium chloride solution, dried and then evaporated to remove solvent. The residue (oil) is distilled at 100°-120° C. (bath temperature) under reduced pressure (0.04 mm Hg). 0.5 g of α,α-dimethyl-3,4-methylenedioxyphenethylamine are thereby obtained as an oil.

reactant | 1-(3,4-methylenedioxyphenyl)-2-methyl-2-nitropropane | 0.8 g | C1OC=2C=C(C=CC2O1)CC(C)([N+](=O)[O-])C | C11H13NO4
reactant | acetic acid | one ml | C(C)(=O)O | C2H4O2
reactant | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | hydrogen | [H][H] | H2
catalyst | platinum dioxide | 100 mg | [Pt](=O)=O
product | α,α-dimethyl-3,4-methylenedioxyphenethylamine | 0.5 g | CC(CC1=CC2=C(C=C1)OCO2)(C)N | C11H15NO2
